US03943145
23.2 G (0.100 mol) of 2-amino-5-chloro-benzophenone [compare F. D. Chattaway, J. Chem. Soc. 85, 340 (1940)] are dissolved in 100 ml of glacial acetic acid and in 25 ml (0.3 mol) of 36% strength hydrochloric acid. 6.9 G (0.100 mol) of sodium nitrite dissolved in 25 ml of water are then added dropwise over the course of 15 minutes whilst stirring and cooling with water at 20°-25°C and 250 g of ice, 250 ml of water and 41.0 g (0.300 mol) of sodium acetate trihydrate are added to the solution. The turbid solution is clarified by filtration using charcoal and the filtrate is poured into a stirred solution of 16.2 g (0.250 mol) of sodium azide in 250 ml of glacial acetic acid. The resulting precipitate is filtered off, repeatedly washed with water and dried in vacuo over calcium chloride, after which 2-azido-5-chlorobenzophenone of melting point 81°-83°C is obtained.

reactant | 2-amino-5-chloro-benzophenone | 0.100 mol | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | sodium nitrite | 0.100 mol | N(=O)[O-].[Na+]
reactant | sodium acetate trihydrate | 0.300 mol, 41.0 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium azide | 0.250 mol, 16.2 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | water | 250 ml | O | H2O
product | 2-azido-5-chlorobenzophenone | N(=[N+]=[N-])C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H8ClN3O
